US04644061
D. 4-acetylthiomethyl-1,2,3-thiadiazole
To a solution of 1,2,3-thiadiazol-4-ylmethanol methanesulfonate (0.90 g, 4.6 mmol) in tetrahydrofuran (9 mL) was added an aqueous solution (2 mL) of sodium thiolacetate [prepared from thiolacetic acid (0.38 mL, 5.3 mmol) and sodium bicarbonate (0.445 g, 5.3 mmol)]. The resulting mixture was stirred at 23° C. for 1 h and diluted with ether (75 mL). The organic solution was washed with water (3×3 mL), dried (MgSO4) and concentrated. The crude mixture was purified by chromatography (silica gel column: 1.4×19 cm) with 50% ether in hexane as eluting solvent to give 0.60 g (75%); ir (film)νmax : 1675 (C=O) cm-1 ; 1Hmr (CDCl3)δ: 2.37 (3H, s, CH3), 4.58 (2H, s, CH2), 8.44 (1H, s, H of thiadiazole). Anal. calcd for C5H6N2OS2 : C 34.47, H 3.47, N 16.08, S 36.80; found: C 34.48, H 3.83, N 16.28, S 36.80.

reactant | 1,2,3-thiadiazol-4-ylmethanol methanesulfonate | 4.6 mmol, 0.90 g | CS(=O)(=O)OCC=1N=NSC1 | C4H6N2O3S2
reactant | sodium thiolacetate | 5.3 mmol, 2 mL, 0.445 g | S1C(=CC=C1)CC(=O)[O-].[Na+]
reactant | thiadiazole | S1N=NC=C1 | C2H2N2S
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | ether | 75 mL | CCOCC | C4H10O
product | 4-acetylthiomethyl-1,2,3-thiadiazole | C(C)(=O)SCC=1N=NSC1 | C5H6N2OS2
